US04616015
Sodium cyanoborohydride (0.62 g) was added portionwise to a solution of 6-(4-aminophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one (1 g) and 36% aqueous formaldehyde (0.92 ml) in a mixture of acetic acid (20 ml) and methanol (30 ml) at room temperature. After stirring for 0.5 hours at the same temperature, the reaction mixture was evaporated in vacuo. To the oily residue was added an aqueous solution of sodium bicarbonate, and the resultant solid was collected by filtration and recrystallized from 70% aqueous ethanol to give 6-(4-dimethylaminophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one (0.8 g).

reactant | Sodium cyanoborohydride | 0.62 g | C(#N)[BH3-].[Na+]
reactant | 6-(4-aminophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 1 g | NC1=CC=C(C=C1)C=1C(NC(NN1)=O)C | C10H12N4O
reactant | formaldehyde | 0.92 ml | C=O | CH2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 30 ml | CO | CH4O
product | 6-(4-dimethylaminophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 0.8 g | CN(C1=CC=C(C=C1)C=1C(NC(NN1)=O)C)C | C12H16N4O
